### PR TITLE
[Merged by Bors] - feat(Ring/DedekindDomain): formula for the splitting of prime ideals in an extension

### PR DESCRIPTION
**Pull request by xroblot**
This PR just puts together all the results that were already there to deduce:
```lean
 map (algebraMap S R) p = ∏ P ∈ p.primesOver R, P ^ p.ramificationIdx (algebraMap S R) P
```
for `p` a maximal ideal of a ring `S` and `R` an extension of `S` that is a Dedekind ring. 

Note. There is a significant import increase in the file `RingTheory.DedekindDomain.Factorization`. However, this file is almost a leaf file so this increase only affects a limited number of files. If the increase is too big, a new file, say `RingTheory.DedekindDomain.PrimeSplitting`, can be added instead. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean [hunk 1]
```diff
@@ -991,6 +991,27 @@ theorem coe_primesOverFinset : primesOverFinset p B = primesOver p B := by
     (fun ⟨hPp, h⟩ => ⟨hPp, ⟨hpm.eq_of_le (comap_ne_top _ hPp.ne_top) (le_comap_of_map_le h)⟩⟩)
     (fun ⟨hPp, h⟩ => ⟨hPp, map_le_of_le_comap h.1.le⟩)
 
+namespace IsDedekindDomain.HeightOneSpectrum
+
+/--
+The bijection between the elements of the height one prime spectrum of `B` that divides the lift
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean]:
```suggestion
The bijection between the elements of the height one prime spectrum of `B` that divide the lift
```

File: Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean [hunk 2]
```diff
@@ -1002,6 +1023,8 @@ theorem primesOver_finite : (primesOver p B).Finite := by
   · rw [← coe_primesOverFinset hpb B]
     exact (primesOverFinset p B).finite_toSet
 
+noncomputable instance : Fintype (p.primesOver B) := Set.Finite.fintype (primesOver_finite p B)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean:1046]: Do we really need `Fintype` instead of `Finite`?

Comment (xroblot) [reply Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean:1046]: Well, I want the formula 
```lean
map (algebraMap S R) p = ∏ P ∈ p.primesOver R, P ^ p.ramificationIdx (algebraMap S R) P 
``` 
to typecheck on line 800 of `RingTheory.DedekindDomain.Factorization` so I thought having a `Fintype` was necessary. Is there another way to proceed?

Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean:1046]: Without the `Fintype` instance, you could write this statement as 
```
map (algebraMap S R) p = ∏ P ∈ (primesOver_finite p R).toFinset, P ^ p.ramificationIdx (algebraMap S R) P
```
(but then the proof would require some adjustments). 
I am not sure whether this would be a nicer solution.

Comment (xroblot) [reply Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean:1046]: I think the right solution is probably to use [primesOverFinset](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.html#primesOverFinset).

Comment (riccardobrasca) [reply Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean:1046]: If it is for the product feel free to keep it. Maybe one day we will be able to take a product over a finite set and fix this globally.

Comment (xroblot) [reply Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean:1046]: Ok. I am bit worried about the discrepancy with [Ideal.sum_ramification_inertia](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/RamificationInertia/Basic.html#Ideal.sum_ramification_inertia) which uses `(factors (map (algebraMap R S) p)).toFinset` which is actually `primesOverFinset` in disguise... But maybe the solution is to keep the fintype instance and use it also there rather than  `(factors (map (algebraMap R S) p)).toFinset`

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
